US05698554
868 mg of nicotinic acid, 954 mg of N-hydroxybenzotriazole and triethylamine (1.23 ml) were added to a dimethylformamide solution (50 ml) containing 2.0 g of 6-[4-(4-aminobutoxy)phenyl]pyridazin-3(2H)-one hydrobromide. 1.35 g of 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide was added to the mixture at 0° C., and the resulting mixture was stirred at room temperature for 6 hours and then poured into ice water, and precipitated crystal was collected by filtration. The crystal was recrystallized from ethanol to obtain 1.75 g of 6-[4-(4-(pyridin-3-ylcarbonylamino)butoxy)phenyl]pyridazin-3(2H )-one.

reactant | nicotinic acid | 868 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | N-hydroxybenzotriazole | 954 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 6-[4-(4-aminobutoxy)phenyl]pyridazin-3(2H)-one hydrobromide | 2.0 g | Br.NCCCCOC1=CC=C(C=C1)C=1C=CC(NN1)=O
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide | 1.35 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.23 ml | C(C)N(CC)CC | C6H15N
product | 6-[4-(4-(pyridin-3-ylcarbonylamino)butoxy)phenyl]pyridazin-3(2H )-one | 1.75 g | N1=CC(=CC=C1)C(=O)NCCCCOC1=CC=C(C=C1)C=1C=CC(NN1)=O | C20H20N4O3
